US04178378
A solution of 61 g (0.244 mol) of crude ethyl 3,6,9,12-tetra-oxa-tridecanoate and 25 ml (0.488 mol) of hydrazine hydrate in 600 ml of ethanol is left to stand for 25 hours at 25°. The reaction mixture is evaporated and the crude, oily 3,6,9,12-tetra-oxa-tridecanoic acid hydrazide, which is thus obtained, is further processed direct.

reactant | ethyl 3,6,9,12-tetra-oxa-tridecanoate | 0.244 mol, 61 g | C(COCCOCCOCCOC)(=O)OCC | C11H22O6
reactant | hydrazine hydrate | 0.488 mol, 25 ml | O.NN
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 3,6,9,12-tetra-oxa-tridecanoic acid hydrazide | C(COCCOCCOCCOC)(=O)NN | C9H20N2O5
